US09387200B2
a) 7-(4-Cyano-phenyl)-3-(4-fluoro-phenyl)-4-hydroxy-isothiazolo[5,4-c]pyridine-5-carboxylic acid ethyl ester
The title compound was synthesized in analogy to Example 1 from 7-bromo-3-(4-fluoro-phenyl)-4-hydroxy-isothiazolo[5,4-c]pyridine-5-carboxylic acid ethyl ester and 4-cyanophenylboronic acid: MS (m/z) 420.2 (M+1).

reactant | 7-bromo-3-(4-fluoro-phenyl)-4-hydroxy-isothiazolo[5,4-c]pyridine-5-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(=C2C(=C(N1)Br)SN=C2C2=CC=C(C=C2)F)O | C15H10BrFN2O3S
reactant | 4-cyanophenylboronic acid | C(#N)C1=CC=C(C=C1)B(O)O | C7H6BNO2
product | 7-(4-Cyano-phenyl)-3-(4-fluoro-phenyl)-4-hydroxy-isothiazolo[5,4-c]pyridine-5-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(=C2C(=C(N1)C1=CC=C(C=C1)C#N)SN=C2C2=CC=C(C=C2)F)O | C22H14FN3O3S
